US08304419B2
4-bromo-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]phenyl}methyl)-1H-imidazole-5-carboxamide
DMF (5 mL) was added to a mixture of 3-{[5-(aminomethyl)-2-chlorophenyl]oxy}-5-chlorobenzonitrile hydrochloride (0.115 g, 0.349 mmol), 4-bromo-1H-imidazole-5-carboxylic acid (0.070 g, 0.366 mmol) and HATU (0.159 g, 0.419 mmol). The mixture was stirred for 5 min then DIPEA (0.122 ml, 0.698 mmol) was added and the yellow solution was stirred at RT under an atmosphere of nitrogen for 2 h. Saturated aqueous NaHCO3 solution (30 mL) and ethyl acetate (75 mL) were added. The organic layer was separated, washed with saturated aqueous NaHCO3 solution (2×50 mL), water (50 mL), brine (50 mL), dried over MgSO4, filtered and concentrated. The crude material was purified by Reverse Phase HPLC (MeCN/water+0.1% TFA) to give the title compound (0.026 g, 16%) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.74 (br. s., 1H), 7.49-7.56 (m, 2H), 7.30 (d, 1H), 7.16-7.24 (m, 3H), 4.57 (br. s., 2H). LCMS m/z 467.1 (M+H).

reactant | 3-{[5-(aminomethyl)-2-chlorophenyl]oxy}-5-chlorobenzonitrile hydrochloride | 0.349 mmol, 0.115 g | Cl.NCC=1C=CC(=C(C1)OC=1C=C(C#N)C=C(C1)Cl)Cl
reactant | 4-bromo-1H-imidazole-5-carboxylic acid | 0.366 mmol, 0.070 g | BrC=1N=CNC1C(=O)O | C4H3BrN2O2
reactant | HATU | 0.419 mmol, 0.159 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.698 mmol, 0.122 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-bromo-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]phenyl}methyl)-1H-imidazole-5-carboxamide | 0.026 g, 16% | BrC=1N=CNC1C(=O)NCC1=CC(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl | C18H11BrCl2N4O2
